US08791091B2
Intermediate 108D. Ethyl 5-hexyloxazole-4-carboxylate
Ethyl 2-isocyanoacetate (1.0 g, 8.84 mmol) was dissolved in DMF (5 mL) in a 25 mL 1 neck pear shaped flask that was equipped with a magnetic stirrer and an Ar inlet. DBU (1.999 mL, 13.26 mmol) and heptanoyl chloride (1.770 mL, 11.49 mmol) were added and the reaction mixture was stirred at 80° C. for 6 h. The reaction mixture was poured into water (50 mL) and extracted with EtOAc (3×30 mL). The phases were separated and the organic phase was dried over MgSO4 and concentrated in vacuo to a dark oil. The desired product was isolated by distillation at 90-95° C. at 0.3 mmHg as a clear oil (0.89 g, 45%). LCMS Anal. Calc'd for C12H19NO3 225.1, found [M+H] 226.1. 1H NMR (500 MHz, CDCl3) δ 7.76 (s, 1H), 4.37 (q, J=7.2 Hz, 2H), 3.03 (t, J=7.6 Hz, 2H), 1.71-1.64 (m, 2H), 1.38 (t, J=7.2 Hz, 3H), 1.35-1.26 (m, 6H), 0.86 (t, J=6.3 Hz, 3H).

reactant | Ethyl 2-isocyanoacetate | 8.84 mmol, 1.0 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | DBU | 13.26 mmol, 1.999 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | heptanoyl chloride | 11.49 mmol, 1.770 mL | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 5-hexyloxazole-4-carboxylate | C(CCCCC)C1=C(N=CO1)C(=O)OCC | C12H19NO3
